US04980352
To a solution of 10.4 g (50.4 mmol) of 2,3-dihydro-6-methoxy-3,3-dimethyl-5-benzofurancarboxaldehyde in 250 ml of methylene chloride and cooled to -78° C. was added dropwise 51.0 ml (51.0 mmol, 1M in methylene chloride) of boron tribromide. The reaction mixture was warmed to ambient temperature and stirred for 1 day. The reaction mixture was poured into 500 ml of water. The organic phase was washed with saturated sodium bicarbonate solution, dried and evaporated. The residue was chromatographed on silica gel (250 g) using a gradient from 2:1 (v/v) hexane:methylene chloride to methylene chloride as eluent. There was obtained 5.77 g (30.0 mmol, 59%) of 2,3-dihydro-6-hydroxy-3,3-dimethyl-5-benzofurancarboxaldehyde as a white solid mp 100°-102° C.

reactant | 2,3-dihydro-6-methoxy-3,3-dimethyl-5-benzofurancarboxaldehyde | 50.4 mmol, 10.4 g | COC1=CC2=C(C(CO2)(C)C)C=C1C=O | C12H14O3
reactant | boron tribromide | 51.0 mmol, 1M, 51.0 ml | B(Br)(Br)Br | BBr3
reactant | water | 500 ml | O | H2O
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2,3-dihydro-6-hydroxy-3,3-dimethyl-5-benzofurancarboxaldehyde | 30.0 mmol, 5.77 g, 59% | OC1=CC2=C(C(CO2)(C)C)C=C1C=O | C11H12O3
